US07981874B2
Methyl [4-({[2-amino-5-(2-thienyl)phenyl]amino}carbonyl)benzyl]methylphosphinate.
Methyl [4-({[2-[(tert-butoxycarbonyl)amino]-5-(2-thienyl)phenyl]amino}carbonyl)benzyl]methyl-phosphinate (6.69 g, 13.37 mmol) was dissolved in CH2Cl2 (48 ml), and TFA (12 ml) was added. The solution was stirred at room temperature for 3 h and evaporated. The residue was dissolved in CH2Cl2, washed with saturated NaHCO3 and brine, dried (MgSO4), and evaporated. The crude was then slurried in CH2Cl2 and triturated with a small amount of hexanes to precipitate the title compound as a colorless solid. This material was subjected to chiral SFC to provide enantiopure samples of the two enantiomeric forms. Spectral data for racemate: 1H NMR (DMSO-d6) δ 9.68 (s, 1H), 7.92 (d, J=7.9 Hz, 2H), 7.44 (d, J=1.6 Hz, 1H), 7.38 (dd, J=8.1, 2.0 Hz, 2H), 7.32 (dd, J=5.2, 0.9 Hz, 1H), 7.27 (dd, J=8.3, 2.2 Hz, 1H), 7.21 (d, J=3.6 Hz, 1H), 7.01 (dd, J=5.0, 3.6 Hz, 1H), 6.78 (d, J=8.7 Hz, 1H), 5.13 (s, 2H), 3.55 (d, J=11.0 Hz, 3H), 3.29 (d, J=18.0 Hz, 2H), 1.32 (d, J=13.7 Hz, 3H). MS: cal'd 401 (MH+), exp 401 (MH+).

reactant | Methyl [4-({[2-[(tert-butoxycarbonyl)amino]-5-(2-thienyl)phenyl]amino}carbonyl)benzyl]methyl-phosphinate | 13.37 mmol, 6.69 g | C(C)(C)(C)OC(=O)NC1=C(C=C(C=C1)C=1SC=CC1)NC(=O)C1=CC=C(CCP(OC)=O)C=C1 | C25H29N2O5PS
reactant | TFA | 12 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 48 ml | C(Cl)Cl | CH2Cl2
product | Methyl [4-({[2-amino-5-(2-thienyl)phenyl]amino}carbonyl)benzyl]methylphosphinate | NC1=C(C=C(C=C1)C=1SC=CC1)NC(=O)C1=CC=C(CCP(OC)=O)C=C1 | C20H21N2O3PS
